US07449476B2
Preparation of 8-Fluoro-5-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester.
To a suspension of NaH (80% in oil, 0.0190 g, 0.633 mmol) in dry THF (1 mL), was added a solution of 8-fluoro-1,3,4,5-tetrahydropyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (0.114 g, 0.393 mmol) in THF (4 mL) via cannula. The reaction mixture was allowed to stir at room temperature for 5 min and then iodomethane (0.098 mL, 1.57 mmol) was added. The resulting mixture was stirred for 2 h and then it was quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic phase was separated, dried (MgSO4), filtered and concentrated to dryness to give the title compound (0.109 g, 91%) as a yellow oil which was used without further purification. LCMS: m/e 305 (M+H)+.

reactant | NaH | 0.633 mmol, 0.0190 g | [H-].[Na+]
reactant | 8-fluoro-1,3,4,5-tetrahydropyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 0.393 mmol, 0.114 g | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C=CC(=CC23)F)CC1 | C16H19FN2O2
reactant | iodomethane | 1.57 mmol, 0.098 mL | IC | CH3I
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-Fluoro-5-methyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 0.109 g, 91% | C(C)(C)(C)OC(=O)N1CC2=C(N(C=3C=CC(=CC23)F)C)CC1 | C17H21FN2O2
